US09428470B2
A) (E)-1-(5-(Benzyloxy)-2-methylphenyl)-N-hydroxymethanimine
A mixture of 5-(benzyloxy)-2-methylbenzaldehyde (15.9 g), hydroxyl ammonium chloride (5.37 g), sodium bicarbonate (6.49 g), and ethanol (150 mL) was stirred at room temperature for 6 hours. The precipitate was filtered off, and then, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (16.7 g).

reactant | 5-(benzyloxy)-2-methylbenzaldehyde | 15.9 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C=O)C1)C | C15H14O2
reactant | hydroxyl ammonium chloride | 5.37 g | [Cl-].O[NH3+]
reactant | sodium bicarbonate | 6.49 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | (E)-1-(5-(Benzyloxy)-2-methylphenyl)-N-hydroxymethanimine | 16.7 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)\C=N\O)C | C15H15NO2
